US07582651B2
3-{3-Cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)propanamide
A mixed solution of (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)prop-2-enamide (170 mg, 0.336 mmol), 10% palladium carbon (20 mg), THF (3 ml) and methanol (3 ml) was stirred under hydrogen atmosphere for 4 hours. Insolubles were filtrated off and the filtrate was concentrated to give the objective product as a solid material.

reactant | (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)prop-2-enamide | 0.336 mmol, 170 mg | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)/C=C/C(=O)NC2=CC(=C(C=C2)OC)OC | C31H30N4O3
reactant | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | palladium carbon | 20 mg | [C].[Pd]
solvent | methanol | 3 ml | CO | CH4O
product | 3-{3-Cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)propanamide | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)CCC(=O)NC2=CC(=C(C=C2)OC)OC | C31H32N4O3
